US05006159
2-Propionyl-3-hydroxy-5-(3-hydroxyphenyl)cyclohex-2-en-1-one
A solution of 36.0 g (0.0927 mol) of 3-hydroxy-5-(3-propionyloxyphenyl)-2-propionyl-4-(carboethoxy)-cyclohex-2-en-1-one in 520 mL of 1N NaOH was heated at 75° C. for 4 hours and cooled to room temperature. The reaction mixture was filtered and the filtrate was diluted with 100 mL of water and acidified with 50 mL of concentrated HCl with the product precipitating as an oil. The oil was dissolved in a mixture of 300 mL of methylene chloride and 200 mL of ethyl ether. The organic layer was separated, washed twice with 200 mL portions of water and dried over Na2SO4. The solvent was removed in vacuo leaving 20.4 g of a partially crystalline product which was purified by column chromatography using a 20:80 acetone:chloroform mixture as eluent. The fractions containing the product were combined and the solvent removed in vacuo leaving 13.1 g (54.4 percent of theoretical) of the above named product which melted at 124°-131° C.; Rf -0.38 (silica gel, 10:90 methanol-chloroform), 1H NMR (CDCl3 +D6 -DMSO): δ1.10 (t, 3H, --CH2CH3), 2.5-3.5 (m, 7H, ring protons and --CH2CH3), 6.55-7.25 (m, 3H, ArH), 8.8 5 (s, H, ArOH), 18.1 (s, 1H, OH).

reactant | 3-hydroxy-5-(3-propionyloxyphenyl)-2-propionyl-4-(carboethoxy)-cyclohex-2-en-1-one | 0.0927 mol, 36.0 g | OC1=C(C(CC(C1C(=O)OCC)C1=CC(=CC=C1)OC(CC)=O)=O)C(CC)=O | C21H24O7
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | NaOH | 1N, 520 mL | [OH-].[Na+]
product | 2-Propionyl-3-hydroxy-5-(3-hydroxyphenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC(=CC=C1)O)=O | C15H16O4
